US07645789B2
To a solution of 5-nitro-2-phenyl-1H-indole (2.83 g, 0.01 mol) in MeOH (30 mL) was added Raney Ni (510 mg) under nitrogen atmosphere. The mixture was stirred under hydrogen atmosphere (1 atm) at room temperature overnight. The catalyst was filtered through a Celite pad and the filtrate was evaporated under vacuum to give the crude product, which was purified by column chromatography on silica gel (petroleum ether/ethyl acetate=5/1) to give 2-phenyl-1H-indol-5-amine (1.6 g, 77%). 1H NMR (400 MHz, CDCl3) δ 7.76 (d, J=7.6 Hz, 2H), 7.39 (t, J=7.6 Hz, 2H), 7.24 (t, J=7.6 Hz, 1H), 7.07 (d, J=8.4 Hz, 1H), 6.64 (d, J=1.6 Hz, 1H), 6.60 (d, J=1.2 Hz, 1H), 6.48 (dd, J=2.0, 8.4 Hz, 1H), 4.48 (brs, 2H); MS (ESI) m/e (M+H+) 209.0.

reactant | 5-nitro-2-phenyl-1H-indole | 0.01 mol, 2.83 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C1=CC=CC=C1 | C14H10N2O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Ni | 510 mg | [Ni] | Ni
product | 2-phenyl-1H-indol-5-amine | 1.6 g, 77% | C1(=CC=CC=C1)C=1NC2=CC=C(C=C2C1)N | C14H12N2
